US08455646B2
Preparation of (2-fluoro-phenyl)-phenylamino-acetic acid methyl ester (I260)
A solution of bromo-(2-fluoro-phenyl)-acetic acid methyl ester (I259) (1.47 g, 5.95 mmol), aniline (814 ul, 8.93 mmol) and N-ethyl-N-isopropylpropan-2-amine (1.53 mL, 8.93 mmol) in acetonitrile (10 mL) is heated under microwave irradiation at 100° C. for 1 hour. The solvent is evaporated, the residue is taken up with DCM and washed with water and brine, dried over Na2SO4 and evaporated to afford intermediate I262 as a dark brown oil (1.54 g, quantitative yield).

reactant | bromo-(2-fluoro-phenyl)-acetic acid methyl ester | 5.95 mmol, 1.47 g | COC(C(C1=C(C=CC=C1)F)Br)=O | C9H8BrFO2
reactant | aniline | 8.93 mmol, 814 ul | NC1=CC=CC=C1 | C6H7N
reactant | N-ethyl-N-isopropylpropan-2-amine | 8.93 mmol, 1.53 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (2-fluoro-phenyl)-phenylamino-acetic acid methyl ester | 1.54 g, quantitative yield | COC(C(NC1=CC=CC=C1)C1=C(C=CC=C1)F)=O | C15H14FNO2
